US06235731B1
2) Synthesis of N-[2-(4-piperidyl)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 3.37 g (7.86 mM) of N-[2-(1-tert-butoxycarbonyl-4-piperidyl)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (100 ml) was added 12N-hydrochloric acid (3.2 ml, 39.3 mM) and the mixture was stirred at room temperature for 1 hour. The resulting crystals were collected by filtration and rinsed with small amounts of ethanol and ether to provide the title compound.

reactant | N-[2-(1-tert-butoxycarbonyl-4-piperidyl)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 7.86 mM, 3.37 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C22H28N4O3S
reactant | hydrochloric acid | 39.3 mM, 3.2 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-[2-(4-piperidyl)ethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.N1CCC(CC1)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C17H20N4OS.2ClH/c22-17(19-9-6-12-4-7-18-8-5-12)14-10-13-11-20-15-2-1-3-16(23-14)21(13)15;;/h1-3,10-12,18H,4-9H2,(H,19,22);2*1H
